Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ yo man with a history of HTN, HLD and prior 
DVT x2 who presented to ___ with 4 days of epigastric 
pain found to have acute thrombosois of R portal vein with 
patent SMV, now transferred for hepatology evaluation. 

Mr. ___ reports that approximately four days ago, he 
developed waxing and waning epigastric pain, which gradually 
become constant and prompted him to present to the ___ 
___. In the ___, vitals and labs were normal. A CT abdomen and 
pelvis was obtained which showed an acute portal vein 
thrombosis. Given this findings he was transferred to ___ for 
hepatology evaluation. 

In the ___ ___, initial vitals:  Triage 11:29 0 96.7 84 124/62 
19 97% RA. Labs were unremarkable. No leukoctosis. Normal LFTs 
and synthetic function. Imaging showed liver ultrasound with 
normal liver architecture and patent main, left, right anterior 
and posterior portal veins.  Specifically, the previous seen 
thrombosis involving the right anterior portal vein is no longer 
visualized. 
In the ___, he received 1LNS
Hepatology recommended MRI liver and liver and hematology workup 
on medicine service.
Vitals prior to transfer: Today 16:55 98.6 89 135/85 19 100% RA 

Currently, patient reports that his abdominal pain has been 
stable or even improved throughout the day though now is 
returning to prior level. He reports that he is hungry. He has 
had no nausea, vomiting. He has had no dark, bloody or tarry 
stool.  No recent abdominal trauma or illnesses.

He does note that last week, he developed left sided painless 
facial/neck swelling of unclear etiology. His friend who is an 
___ doc recommended he see an ENT doctor who felt that he had 
parotid swelling. 

Of note, did have a provoked dvt in ___ after being casted + 
immobilized for ___ injury. He completed lovenox and coumadin 
therapy. had a coagulopathy workup which was negative. He also 
notes that ___ years ago he developed similar abdominal pain 
that was epigastric and non-radiating. At that time he was found 
to have a transaminitis and so his simvastatin was stopped with 
resolution of pain and LFTs. He soon started atorvastatin 
without issue. 

ROS:  
No fevers, chills, night sweats, or weight changes. No changes 
in vision or hearing, no changes in balance. No cough, no 
shortness of breath, no dyspnea on exertion. No chest pain or 
palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.  

 
Past Medical History:
- History of DVT in ___
- HTN
- HLD
- Gout
- Anxiety
- Chronic sinusitis
- Obesity
 
Social History:
___
Family History:
Sister had lymphoblastic leukemia Paternal Grandfather heart 
problems, MIs. Father with AAA. Mother with HLD. No liver or 
clotting disorders.
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VS:  98.2 PO 148 / 97 L Sitting 93 20 95 RA Pain ___ 
GEN: Very well appearing. No distress
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. No 
facial swelling. 
NECK: No LAD  
PULM: CTAB  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Obese, no striae, no caput. + tenderness to epigastrium. No 
CVAT. No rebound or guarding. Unable to palpate liver edge
EXTREM: Warm, well-perfused, no edema. Negative ___. 
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:  
========================
VS:  97.9 PO 106 / 72 L Lying 74 20 96 RA  
GEN: Very well appearing. No distress
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. No 
facial swelling. 
NECK: No LAD  
PULM: CTAB  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Obese, no striae, no caput. + tenderness to epigastrium. No 
CVAT. No rebound or guarding. Unable to palpate liver edge
EXTREM: Warm, well-perfused, no edema. Negative ___. 
NEURO: CN II-XII grossly intact, motor function grossly normal  

 
Pertinent Results:
LABS:
==========================
___ 12:25PM BLOOD WBC-8.2 RBC-5.37 Hgb-15.1 Hct-45.2 MCV-84 
MCH-28.1 MCHC-33.4 RDW-13.2 RDWSD-40.7 Plt ___
___ 12:25PM BLOOD Neuts-72.6* Lymphs-18.6* Monos-5.3 
Eos-2.9 Baso-0.4 Im ___ AbsNeut-5.92 AbsLymp-1.52 
AbsMono-0.43 AbsEos-0.24 AbsBaso-0.03
___ 12:25PM BLOOD ___ PTT-25.4 ___
___ 12:25PM BLOOD Glucose-100 UreaN-9 Creat-0.8 Na-138 
K-4.2 Cl-100 HCO3-23 AnGap-19
___ 12:25PM BLOOD ALT-48* AST-33 AlkPhos-67 TotBili-0.5
___ 12:25PM BLOOD Lipase-19
___ 12:25PM BLOOD Albumin-4.3 Iron-46
___ 08:20AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.5
___ 12:25PM BLOOD calTIBC-354 Ferritn-426* TRF-272
___ 12:25PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 12:25PM BLOOD AMA-NEGATIVE
___ 12:25PM BLOOD ___
___ 12:25PM BLOOD IgG-800 IgA-180 IgM-101
___ 12:25PM BLOOD HCV Ab-Negative

STUDIES: 
====================
+ CT with IV contrast at ___ (___): 
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no evidence of pleural or pericardial effusion. 
HEPATOBILIARY: The liver is normal in attenuation with a normal 
contour.  There is no perihepatic ascites.  There is lack of 
opacification of the right anterior portal vein and its 
branches.  The right posterior portal vein, left portal vein, 
and main portal vein are patent.  The hepatic veins are patent. 
The SMV and splenic vein are patent.  The gallbladder is normal. 
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesions. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.   
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal lesions 
or hydronephrosis.  There is no perinephric abnormality. 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  The colon and rectum are within normal 
limits.  The appendix is normal.   
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
normal. 
LYMPH NODES: There is prominence of a portacaval lymph node 
(02:44).  
Retroperitoneal and mesenteric lymph nodes are not 
pathologically enlarged. 
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
IMPRESSION: Lack of opacification of the right anterior portal 
vein and its branches, consistent with right anterior portal 
vein thrombosis.  Normal opacification of the main, left and 
right posterior portal veins as well as the mesenteric veins. 

+ LIVER U/S (___) 
1. Patent main, left, right anterior and posterior portal veins. 
 
Specifically, the previous seen thrombosis involving the right 
anterior portal vein is no longer visualized. 
2. Normal hepatic echotexture. 

+ ___ ___: There is evidence of superficial 
thrombophlebitis involving a varicose vein along the medial 
aspect of the distal thigh. There is noncompressibility to a 
vein along the distal lower leg/ankle is may be chronic as the 
patient did demonstrate a prior popliteal vein thrombosis. The 
common femoral vein to the popliteal vein are compressible.

+ MRI LIVER (___)
1. Bland portal vein thrombosis within the anterior branch of 
the right portal vein extending into the branches. The left and 
main portal veins, SMV and splenic are patent. 
2. Splenomegaly. 

+ ___ (___): No evidence of deep venous thrombosis in the 
right or left lower extremity veins. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo man with a history of HTN, HLD and prior 
DVT x2 who presented to ___ with 4 days of epigastric 
pain found to have acute thrombosis of R portal vein with patent 
SMV, admitted for further workup.   

ACTIVE ISSUES: 
===============
# Acute Portal Vein Thrombosis: Unclear provocation. Patient 
without known liver disease or thrombophilia. Patient with 
likely new acute thrombosis of right anterio portal vein on CT 
imaging though not seen on ultrasound. No evidence of bowel 
ischemia. Labwork with no leukocytosis, normal synthetic 
function, normal LFTs. He does have moderate alcohol use history 
but no evidence of decompensation. He does have history of 
provoked DVT in ___ with tib/fib fracture for which he was 
previously on anticoagulation and had negative reported 
hypercoagulability workup, though had recent superficial 
thrombophlebitis that was unprovoked. MRI with contrast of liver 
showed bland portal vein thrombosis within the anterior branch 
of the right portal vein extending into the branches. The left 
and main portal veins, SMV and splenic are patent. He was seen 
by hepatology who felt that this finding did not require acute 
anticoagulation given lack of extension into main portal vein or 
SMV. Laboratory workup hepatitis B SAb, SAg, cAb, hepatitis C 
Ab, iron, ferritin, TIBC, ___, AMA, SMA, IgG, IgM, IgA was 
normal aside from slightly elevated ferritin. 

CHRONIC ISSUES: 
===============
# History of DVT: Not on anticoagulation. Thought to be 
provoked. LENIs on this admission without DVT. 
# HTN: continued lisinopril
# HLD: continued atorvastatin
# Gout: continued allopurinol
# Anxiety: continued alprazolam
# Chronic sinusitis: continued fluticasone

TRANSITIONAL ISSUES: 
========================
# CODE STATUS:  Full
# CONTACT:  ___ 
Phone number: ___ 
[ ] Patient should followup with hepatology within three months 
with plan for repeat MRI of liver in three months
[ ] will need hematology evaluation and thrombophilia work up 
include factor V leiden, protein c &s, antiphospholipid 
syndrome, cardiolipin, JAK2, PNH as guided by heme/onc as some 
of these tests obtained acutely can be abnormal  
[ ] H.pylori antibody pending at time of discharge, sent to 
evaluate for alternate etiology of abdominal pain

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Allopurinol ___ mg PO DAILY 
4. ALPRAZolam 0.5 mg PO QHS:PRN anxiety 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Allopurinol ___ mg PO DAILY  
3.  ALPRAZolam 0.5 mg PO QHS:PRN anxiety  
4.  Atorvastatin 20 mg PO QPM  
5.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
6.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
=====================
Acute Portal Vein Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure meeting you and taking care of you. You were 
admitted to ___ for evaluation of four days of abdominal pain. 
You were seen at ___ where there was concern for a clot 
in your portal vein (a vein that drains blood from the 
intestines and goes to the liver. At ___ you had an abdominal 
ultrasound that did not show the clot and you had an MRI which 
showed a small portal vein thrombosis. You were seen by the 
hepatology team who felt that this clot did not require 
anticoagulation. You will need a repeat MRI in three months to 
determine if you this clot persists. 

You should also see a hematologist as an outpatient to determine 
if you have a predisposition to forming clots. We have made a 
referral to hematology. They should call you with an 
appointment. 

We understand that you have upcoming travel. We feel that this 
is safe for you to do but recommend that while flying you flex 
your calfs often to avoid blood clots. 

We have arranged followup with your PCP and hepatology for 
further discussion. 

We wish you the best, 

Your ___ team
 
Followup Instructions:
___